US04837217
Preparation of 2-t-butyl-4-chloro-5-[4-(2-ethoxy-1-methylethoxy)-benzyloxy]-3(2H)-pyridazinone (Compound No. 511)
In 30 ml of N,N-dimethylformamide were dissolved 2.0 g of 2-t-butyl-4-chloro-5-hydroxy-3(2H)-pyridazinone and 3.0 g of 4-(2-ethoxy-1-methylethoxy)-benzyl bromide, and then 1.9 g of anhydrous potassium carbonate was added thereto. The mixture was heated under stirring on an oil bath at 80° to 90° C. for 3 hours. Then, procedures similar to those in Preparation Example 2 were carried out to obtain 1.5 g of the aimed product, m.p. 72.3°~73.1° C.

reactant | 2-t-butyl-4-chloro-5-hydroxy-3(2H)-pyridazinone | 2.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)O | C8H11ClN2O2
reactant | 4-(2-ethoxy-1-methylethoxy)-benzyl bromide | 3.0 g | C(C)OCC(OC1=CC=C(CBr)C=C1)C | C12H17BrO2
reactant | potassium carbonate | 1.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-t-butyl-4-chloro-5-[4-(2-ethoxy-1-methylethoxy)-benzyloxy]-3(2H)-pyridazinone | 1.5 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OCC1=CC=C(C=C1)OC(COCC)C | C20H27ClN2O4
